US07662771B2
Add aluminum(III) chloride (3.84 g, 29 mmol) to a suspension of 8-[4-(2-isopropoxyphenyl)imidazol-1-yl]octanoic acid methyl ester (5.16 g, 14 mmol) in methylene chloride (150 mL) at 0° C. under nitrogen. Warm the mixture to room temperature and stir for 6 hours. Dilute the mixture with saturated aqueous sodium sulfate (50 mL) and remove the solvent under reduced pressure. Dilute the residue with ethyl acetate (300 mL), wash with brine (100 mL), dry over sodium sulfate, and remove the solvent under reduced pressure. Purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate/hexanes (2:8 to 3:7), to provide 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid methyl ester (2.63 g, 57%).

reactant | aluminum(III) chloride | 29 mmol, 3.84 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 8-[4-(2-isopropoxyphenyl)imidazol-1-yl]octanoic acid methyl ester | 14 mmol, 5.16 g | COC(CCCCCCCN1C=NC(=C1)C1=C(C=CC=C1)OC(C)C)=O | C21H30N2O3
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | sodium sulfate | 50 mL | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | 8-[4-(2-hydroxyphenyl)imidazol-1-yl]octanoic acid methyl ester | 2.63 g, 57% | COC(CCCCCCCN1C=NC(=C1)C1=C(C=CC=C1)O)=O | C18H24N2O3
